### PR TITLE
Grothendieck Groups of Commutative Monoids

### PR DESCRIPTION
**Pull request by fabianmasato**
This PR introduces commutative monoids and binary products thereof.

### CODE REVIEW

File: Cubical/Algebra/CommMonoid/CommMonoidProd.agda [hunk 1]
```diff
@@ -0,0 +1,38 @@
...
+open IsMonoid hiding (rid ; lid)
+open IsSemigroup
+
+
+private
+  variable
+    𝓁 𝓁' : Level
+
+
+CommMonoidProd : ∀ {ℓ ℓ'} → CommMonoid ℓ → CommMonoid ℓ' → CommMonoid (ℓ-max ℓ ℓ')
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/CommMonoidProd.agda:25]: The variables for the universe level are symbols different from '\ell'. If they were '\ell', the implicit arguments to 'CommMonoidProd' could be dropped.

File: Cubical/Algebra/CommMonoid/CommMonoidProd.agda [hunk 2]
```diff
@@ -0,0 +1,38 @@
+{-# OPTIONS --safe #-}
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/CommMonoidProd.agda:1]: Remove '--safe', see CONTRIBUTING.md

File: Cubical/Algebra/CommMonoid/GrothendieckGroup.agda [hunk 3]
```diff
@@ -0,0 +1,212 @@
...
+            lemma₂ : ∀ {k a b c d} → k · (a · d) ≡ k · (b · c) → f a + f d ≡ f b + f c
+            lemma₂ {k} {a} {b} {c} {d} p =
+              f a + f d   ≡⟨ sym (φ.isHom _ _) ⟩
+              f (a · d)   ≡⟨ ·CancelL _ (sym (φ.isHom _ _) ∙ (cong f p) ∙ φ.isHom _ _) ⟩
+              f (b · c)   ≡⟨ φ.isHom _ _ ⟩
+              f b + f c   ∎
+
+            lemma : ∀ {a b c d} → f a + f d ≡ f b + f c → f a - f b ≡ f c - f d
+            lemma {a} {b} {c} {d} p =
+              f a - f b ≡⟨ {!!} ⟩
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/GrothendieckGroup.agda:165]: Please finish your proof ;-)

**Review by felixwellen — CHANGES_REQUESTED** [review]

File: Cubical/Algebra/CommMonoid/GrothendieckGroup.agda [hunk 4]
```diff
@@ -0,0 +1,234 @@
...
+  asAbGroup : AbGroup ℓ
+  asAbGroup = makeAbGroup 0/R _+/_ -/_ squash/ assoc/R rid/R rinv/R comm/R
+
+Groupification : CommMonoid ℓ → AbGroup ℓ
+Groupification M = asAbGroup M
+
+
+
+
+-- might be a better idea to move this into AbGroup.Base, but that file doesn't import CommMonoid.Base (yet?)
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/GrothendieckGroup.agda:119]: Yes, I think AbGroup.Base is a better place for that.

File: Cubical/Algebra/CommMonoid/GrothendieckGroup.agda [hunk 5]
```diff
@@ -0,0 +1,234 @@
...
+
+  R : ⟨ M² ⟩  → ⟨ M² ⟩ → Type _
+  R (a₁ , b₁) (a₂ , b₂) =  Σ ⟨ M ⟩ (λ k → k · (a₁ · b₂) ≡ k · (b₁ · a₂))
+
+  M²/R : Type _
+  M²/R = ⟨ M² ⟩ / R
+
+  0/R : M²/R
+  0/R = [ ε , ε ]
+
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/GrothendieckGroup.agda:52]: Test fabian's notification settings

**Review by mortberg — APPROVED** [review]
Looks good to me! Please just fix the whitespace issue and whatever comments @felixwellen might have and then I'll merge

File: Cubical/Algebra/CommMonoid/CommMonoidProd.agda [hunk 6]
```diff
@@ -0,0 +1,37 @@
...
+  variable
+    ℓ ℓ' : Level
+
+
+CommMonoidProd : CommMonoid ℓ → CommMonoid ℓ' → CommMonoid (ℓ-max ℓ ℓ')
+CommMonoidProd M N = makeCommMonoid ε× _·×_ is-set× assoc× rid× comm×
+  where
+  ε× = (ε (snd M)) , (ε (snd N))
+  
+  _·×_ = λ x y → _·_ (snd M) (fst x) (fst y) , _·_ (snd N) (snd x) (snd y)
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/CommMonoidProd.agda:29]: Here and in the following lines, it might be better to give type signatures and remove the 'λ's

File: Cubical/Algebra/CommMonoid/GrothendieckGroup.agda [hunk 7]
```diff
@@ -0,0 +1,226 @@
...
+{-
+            M ------φ------> A
+             \               Λ
+              \             /
+       universalHom    ∃! inducedHom
+                \         /
+                 V       /
+             Groupification M
+-}
+
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/GrothendieckGroup.agda:213]: This nice diagram would be more helpful, if it were at the beginning of the module...

File: Cubical/Algebra/CommMonoid/CommMonoidProd.agda (hunk 6 above)
Comment (fabianmasato) [reply Cubical/Algebra/CommMonoid/CommMonoidProd.agda]: Done!

File: Cubical/Algebra/CommMonoid/GrothendieckGroup.agda (hunk 7 above)
Comment (fabianmasato) [reply Cubical/Algebra/CommMonoid/GrothendieckGroup.agda]: Done!

File: Cubical/Algebra/CommMonoid/GrothendieckGroup.agda [hunk 8]
```diff
@@ -0,0 +1,228 @@
...
+  M² = CommMonoidProd M M
+
+  open CommMonoidStr ⦃...⦄
+  private
+    instance
+      _ = snd M
+      _ = snd M²
+
+  R : ⟨ M² ⟩  → ⟨ M² ⟩ → Type _
+  R (a₁ , b₁) (a₂ , b₂) =  Σ ⟨ M ⟩ (λ k → k · (a₁ · b₂) ≡ k · (b₁ · a₂))
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/GrothendieckGroup.agda:45]: Use sigma-syntax.

Comment (fabianmasato) [reply Cubical/Algebra/CommMonoid/GrothendieckGroup.agda]: Done!

File: Cubical/Algebra/CommMonoid/GrothendieckGroup.agda [hunk 9]
```diff
@@ -0,0 +1,228 @@
...
+      isCongR : ∀ u u' v v' → R u u' → R v v' → R (u · v) (u' · v')
+      isCongR (a₁ , b₁) (a₂ , b₂) (a₃ , b₃) (a₄ , b₄) (k , p) (s , q) = k · s , proof
+        where
+        proof =
+          (k · s) · ((a₁ · a₃) · (b₂ · b₄)) ≡⟨ lemma ⟩
+          (k · (a₁ · b₂)) · (s · (a₃ · b₄)) ≡⟨ cong₂ _·_ p q ⟩
+          (k · (b₁ · a₂)) · (s · (b₃ · a₄)) ≡⟨ sym lemma ⟩
+          (k · s) · ((b₁ · b₃) · (a₂ · a₄)) ∎
+            where
+            Assoc : ∀ {x y z} → x · (y · z) ≡ (x · y) · z
```
Comment (felixwellen) [inline Cubical/Algebra/CommMonoid/GrothendieckGroup.agda:69]: Capitalization of a term is against the style rules... So it would be good to change it to something like assocM2/R

Comment (fabianmasato) [reply Cubical/Algebra/CommMonoid/GrothendieckGroup.agda]: Let's hope I got it right this time :)

**Comment by felixwellen** [comment]
I think this is ready to merged now!

**Review by mortberg — APPROVED** [review]
Perfect! Merging once the CI is finished
